US09382222B2
A solution of 4-[(4-fluoro-phenyl)-isobutyl-sulfamoyl]-benzoic acid methyl ester (1.05 g, 2.87 mmol) in MeOH (40 mL) was treated with 1 M aqueous NaOH (8.6 mL, 8.60 mmol) and stirred at room temperature for 2.5 hours. The MeOH was removed under vacuum, the aqueous a phase diluted with water, washed with EtOAc and acidified to pH 1-2 using 1 N aqueous HCl. The acidic aqueous was extracted with EtOAc. The combined extracts were dried over Na2SO4 and concentrated under vacuum to give 4-[(4-fluoro-phenyl)-isobutyl-sulfamoyl]-benzoic acid (914 mg, 91%). 1H NMR (300 MHz, DMSO) δ 13.48 (br s, 1H), 8.10 (d, J=8.3 Hz, 2H), 7.65 (d, J=8.3 Hz, 2H), 7.25-7.05 (m, 4H), 3.35 (d, J=7.3 Hz, 2H), 1.51-1.33 (m, 1H), 0.85 (d, J=6.6 Hz, 6H). LCMS (m/z, Method A) ES+ 352.0 [M+1]+.

reactant | 4-[(4-fluoro-phenyl)-isobutyl-sulfamoyl]-benzoic acid methyl ester | 2.87 mmol, 1.05 g | COC(C1=CC=C(C=C1)S(N(CC(C)C)C1=CC=C(C=C1)F)(=O)=O)=O | C18H20FNO4S
reactant | NaOH | 8.60 mmol, 1 M, 8.6 mL | [OH-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | 4-[(4-fluoro-phenyl)-isobutyl-sulfamoyl]-benzoic acid | 914 mg, 91% | FC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)CC(C)C | C17H18FNO4S
